US06825200B1
Benzyl [[(2S)-2-amino-3-(2-pyridyl)propanoyl]amino]acetate dihydrochloride
To a solution of benzyl [[(2S)-2-[(tert-butoxycarbonyl)amino]-3-(2-pyridyl)propanoyl]amino]acetate (73.8 g) in ethyl acetate (150 ml) was added dropwise 4N hydrogen chloride in ethyl acetate (669 ml) at 10° C. over 30 minutes. The mixture was warmed to room temperature and stirred for 3 hours. The mixture was diluted with ethyl acetate (300 ml). The resulting precipitate was collected by filtration, washed with ethyl acetate (700 ml), and dried in vacuo to give the title compound.

reactant | benzyl [[(2S)-2-[(tert-butoxycarbonyl)amino]-3-(2-pyridyl)propanoyl]amino]acetate | 73.8 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)NCC(=O)OCC1=CC=CC=C1)CC1=NC=CC=C1 | C22H27N3O5
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 669 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | Benzyl [[(2S)-2-amino-3-(2-pyridyl)propanoyl]amino]acetate dihydrochloride | Cl.Cl.N[C@H](C(=O)NCC(=O)OCC1=CC=CC=C1)CC1=NC=CC=C1 | InChI=1S/C17H19N3O3.2ClH/c18-15(10-14-8-4-5-9-19-14)17(22)20-11-16(21)23-12-13-6-2-1-3-7-13;;/h1-9,15H,10-12,18H2,(H,20,22);2*1H/t15-;;/m0../s1
